US05380724
4-(N,N-Dimethylthiocarbamoyloxy)benzylcyanide
Metallic sodium (1.15 g, 50 mg-atom) was dissolved in methanol (100 ml) and 4-hydroxybenzylcyanide (6.7 g, 50 mmol) was added. The obtained solution was concentrated and acetonitrile (2×10 ml) was evaporated from the residue. The obtained salt was dissolved in anhydrous dimethylformamide (200 ml) and about 25 ml of the solvent was removed under reduced pressure. To the obtained solution N,N-dimethylthiocarbamoyl chloride (9.9 g, 80 mmol) was added and the reaction mixture was stirred at 80°-85° C. for 2 hours. Thereafter additional N,N-dimethylthiocarbamoyl chloride (2.5 g, 20 mmol) was added and stirring at 80° C. was continued for further one hour. After cooling the mixture was poured into aqueous 1% KOH (500 ml) and extracted with ether (3×200 ml). The organic extracts were washed with water until neutral, dried over MgSO4 and concentrated. The solid residue was triturated with water and after drying also with isopropyl ether to give the title compound (5.42 g), mp. 120°-124° C., yield: 52.7%.

reactant | sodium | 1.15 g | [Na] | Na
reactant | 4-hydroxybenzylcyanide | 50 mmol, 6.7 g | OC1=CC=C(CC#N)C=C1 | C8H7NO
reactant | N,N-dimethylthiocarbamoyl chloride | 80 mmol, 9.9 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | N,N-dimethylthiocarbamoyl chloride | 20 mmol, 2.5 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | KOH | 500 ml | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-(N,N-Dimethylthiocarbamoyloxy)benzylcyanide | 5.42 g, yield: 52.7% | CN(C(=S)OC1=CC=C(CC#N)C=C1)C | C11H12N2OS
